US04283336
A. 5-Fluoroindole-3-acetonitrile
A mixture of 38 g of 3-dimethylaminomethyl-5-fluoroindole (0.198 mole; cf. Hoffman et al. J. Heterocyclic Chem. 2, 298 (1965); of the 5-fluorogramine therein) in 500 ml of methanol was prepared. Then a solution of 25.7 g of KCN (0.396 mole) in 50 ml of water was added, with stirring. The stirred mixture was cooled to 20° C. and 34.6 ml of methyl iodide (0.556 mole) was added over a 20 minute period. The mixture was then stirred at about 20° C. for 16 hours. The solvent was removed by evaporation and the residue was partitioned between ether and water. The ether portion was washed with water, 5% HCl, saturated NaHCO3 solution, water, and brine, dried over MgSO4 and evaporated to leave a liquid residue. This residue was distilled at reduced pressure in a Kugelrohr apparatus. The fraction distilling at 134°-140° C. and 0.3 to 0.1 Torr was collected and crystallized from ethyl acetate-petroleum ether, mp 58°-59°, yield 5.3 g (44%).

reactant | 3-dimethylaminomethyl-5-fluoroindole | 38 g | CN(C)CC1=CNC2=CC=C(C=C12)F | C11H13FN2
reactant | 5-fluorogramine | CN(C)CC1=CNC2=C1C=C(C=C2)F | C11H13FN2
reactant | KCN | 0.396 mole, 25.7 g | [C-]#N.[K+]
reactant | methyl iodide | 0.556 mole, 34.6 ml | CI | CH3I
solvent | methanol | 500 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 5-Fluoroindole-3-acetonitrile | FC=1C=C2C(=CNC2=CC1)CC#N | C10H7FN2
